US07196111B2
To a solution of 2.28 g (15 mmol) of 4-hydroxy-benzoic acid methyl ester in 30 mL of dimethylformamide (DMF) was added 5.38 g (16.5 mmol) of cesium carbonate (Cs2CO3), followed by 2.75 mL (18 mmol) of 3-(trifluoromethyl)-benzyl bromide, and the resulting heterogeneous mixture was stirred at rt overnight. The reaction mixture was filtered and concentrated, diluted with water and extracted with ethyl acetate, and the combined organic extracts were washed with water and brine, and concentrated to give 4.75 g of desired 4-(3-trifluoromethyl-benzyloxy)-benzoic acid methyl ester as indicated by 1H NMR and 19F-NMR (containing traces of residual 3-(trifluoromethyl)-benzyl bromide).

reactant | 4-hydroxy-benzoic acid methyl ester | 15 mmol, 2.28 g | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | cesium carbonate | 16.5 mmol, 5.38 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-(trifluoromethyl)-benzyl bromide | 18 mmol, 2.75 mL | FC(C=1C=C(CBr)C=CC1)(F)F | C8H6BrF3
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 4-(3-trifluoromethyl-benzyloxy)-benzoic acid methyl ester | 4.75 g | COC(C1=CC=C(C=C1)OCC1=CC(=CC=C1)C(F)(F)F)=O | C16H13F3O3
